US05723165
10 ml of 4N-HCl/dioxane solution was added to 0.66 (1.97 mmols) of N-t-butoxycarbonyl-DL-isovaline (S)-α-ethylbenzylamide, and the mixture was stirred at room temperature for one hour. The reaction mixture was concentrated under reduced pressure, 30 ml of ether were added to the residue, and this was again concentrated. The residue was dissolved in 20 ml of methylene chloride and 0.24 ml (1.76 mmols) of triethylamine and 0.63 g (1.76 mmols) of β-benzyl N-benzyloxycarbonyl-L-aspartate were added thereto. Under cooling, 0.34 g (1.76 mmols) of water-soluble carbodiimide hydrochloride was added thereto, and these were stirred for one hour under cooling and then overnight at room temperature. The reaction mixture was concentrated under reduced pressure, 50 ml of aqueous 5% citric acid were added to the residue, which was extracted two times each with 40 ml of ethyl acetate and then washed with 20 ml of water, 25 ml of aqueous 5% sodium hydrogencarbonate and 20 ml of brine, in that order. The resulting organic layer was dried with anhydrous magnesium sulfate and filtered, and the resulting filtrate was concentrated under reduced pressure. The residue was dissolved in 20 ml of methanol, 0.10 g of 10% Pd-carbon (water content 50%) was added thereto, and the mixture was reduced under hydrogen. 20 ml of water was added to this, the catalyst was removed by filtration, and the resulting filtrate was concentrated to about 1/5. This was then stored in a refrigerator overnight. The crystal thus precipitated was removed by filtration and dried to obtain 0.21 g of α-L-aspartyl-DL-isovaline (S)-α-ethylbenzylamide.

reactant | HCl dioxane | Cl.O1CCOCC1
reactant | N-t-butoxycarbonyl-DL-isovaline (S)-α-ethylbenzylamide | C(C)[C@@H](C1=CC=CC=C1)NC(C(NC(=O)OC(C)(C)C)(CC)C)=O | C19H30N2O3
reactant | triethylamine | 1.76 mmols, 0.24 ml | C(C)N(CC)CC | C6H15N
reactant | water | 1.76 mmols, 0.34 g | O | H2O
product | α-L-aspartyl-DL-isovaline (S)-α-ethylbenzylamide | 0.21 g | C(C)[C@@H](C1=CC=CC=C1)NC(C(NC([C@@H](N)CC(O)=O)=O)(CC)C)=O | C18H27N3O4
